US07745642B2
(±)-2-Chloro-N-[{1-[(2-hydroxyethyl)(methyl)amino]cyclopentyl}(phenyl)methyl]-3-(trifluoromethyl)benzamide
To a solution of (±)-2-chloro-N-[{1-[(2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethyl)(methyl)amino]cyclopentyl}(phenyl)methyl]-3-(trifluoromethyl)benzamide D30 (0.390 g; 0.685 mmol) in THF (10 ml) was added tetrabutylammonium fluoride (1M solution in THF 1.6 ml; 1.6 mmol). The reaction mixture was allowed to stir at room temperature for 4 h. The desired product was isolated by column chromatography on silica using 20% to 50% ether in n-pentane, the solvent was reduced in volume by evaporation in vacuo and loaded onto an SCX cartridge. Washing with DCM, then methanol followed by elution with 1M ammonia in methanol afforded the title product (170 mg, 73%). Mass Spectrum (Electrospray LC/MS). Found 455 (MH+). C23H2635ClF3N2O2 requires 454. Ret. time: 2.09 min.

reactant | (±)-2-chloro-N-[{1-[(2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethyl)(methyl)amino]cyclopentyl}(phenyl)methyl]-3-(trifluoromethyl)benzamide | ClC1=C(C(=O)NC(C2=CC=CC=C2)C2(CCCC2)N(C)CCO[Si](C)(C)C(C)(C)C)C=CC=C1C(F)(F)F | C29H40ClF3N2O2Si
reactant | tetrabutylammonium fluoride | 1.6 mmol, 1M, 1.6 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | n-pentane | CCCCC | C5H12
product | (±)-2-Chloro-N-[{1-[(2-hydroxyethyl)(methyl)amino]cyclopentyl}(phenyl)methyl]-3-(trifluoromethyl)benzamide | ClC1=C(C(=O)NC(C2=CC=CC=C2)C2(CCCC2)N(C)CCO)C=CC=C1C(F)(F)F | C23H26ClF3N2O2
